US07192950B2
N-(1H-Benzoimidazol-2-ylmethyl)-2-[1-(3,4-dimethoxy-benzyl)-7,8-dimethoxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-2-phenyl-acetamide
prepared by reaction of [1-(3,4-dimethoxy-benzyl)-7,8-dimethoxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-phenyl-acetic acid with 2-aminomethyl-benzimidazole dihydrochloride hydrate.

reactant | [1-(3,4-dimethoxy-benzyl)-7,8-dimethoxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-phenyl-acetic acid | COC=1C=C(CC2N(CCCC3=C2C=C(C(=C3)OC)OC)C(C(=O)O)C3=CC=CC=C3)C=CC1OC | C29H33NO6
reactant | 2-aminomethyl-benzimidazole dihydrochloride hydrate | O.Cl.Cl.NCC=1NC2=C(N1)C=CC=C2
product | N-(1H-Benzoimidazol-2-ylmethyl)-2-[1-(3,4-dimethoxy-benzyl)-7,8-dimethoxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-2-phenyl-acetamide | N1C(=NC2=C1C=CC=C2)CNC(C(C2=CC=CC=C2)N2C(C1=C(CCC2)C=C(C(=C1)OC)OC)CC1=CC(=C(C=C1)OC)OC)=O | C37H40N4O5
